US08304557B2
(vi) 3-(1-cyanocyclopropyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide
To a solution of N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (1.5 g, 2.58 mmol) in dichloromethane (10 mL) was added trifluoroacetic anhydride (10 mL), and the mixture was stirred at room temperature for 12 hr. Water (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL). The organic layer was washed with 5% aqueous sodium hydrogen carbonate solution (200 mL) and saturated brine (200 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=40/60→O/100), and fractions containing the desired product were concentrated under reduced pressure to give the title compound (977 mg, 75%) as a pale-yellow oil.

reactant | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 2.58 mmol, 1.5 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C1(CC1)C#N)=O)=O | C31H27N5O5S
reactant | trifluoroacetic anhydride | 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | 200 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(1-cyanocyclopropyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide | 977 mg, 75% | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)C=C(N3)NC(C(F)(F)F)=O)C=CC1 | C26H18F3N5O3
